US05324747
A mixture of 1.0 g (3.45 mmol) of 4-tetradecylphenyl aniline (Aldrich Chemical Company), 5.0 ml (0.052 mol) of methyl bromoacetate, 0.95 g (6.9 mmol) of potassium carbonate and 0.5 g (3.45 mmol) of sodium iodide in 15 ml of DMF was stirred and heated at 100° for 45 hours. The solvent was removed at reduced pressure and water was added to the residue. The product was extracted with ethyl acetate and the extract was washed with sodium bisulfite solution, dried and concentrated. The residue was purified by chromatography on silica gel using 25% ethyl acetate-hexane to give 0.7 g of N-(2-methoxy-2-oxoethyl)-N-(4-tetradecylphenyl)glycine methyl ester. This dimethyl ester was hydrolyzed by treatment with 1.5 ml of 6N NaOH in 50 ml of methanol. The mixture was warmed briefly to dissolve the ester and then was kept at room temperature for 3 days. The solvent was removed at reduced pressure and the residue was acidified to pH 2. The product was extracted with ethyl acetate and the dried extract was concentrated at reduced pressure to a solid which was recrystallized from methanol-water to give 0.26 g, mp 160°-165°, of N-(carboxymethyl)-N-(4-tetradecylphenyl)glycine.

reactant | 4-tetradecylphenyl aniline | 3.45 mmol, 1.0 g | C(CCCCCCCCCCCCC)C1=CC=C(C=C1)NC1=CC=CC=C1 | C26H39N
reactant | methyl bromoacetate | 0.052 mol, 5.0 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 6.9 mmol, 0.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 3.45 mmol, 0.5 g | [I-].[Na+]
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-(2-methoxy-2-oxoethyl)-N-(4-tetradecylphenyl)glycine methyl ester | 0.7 g | COC(CN(C1=CC=C(C=C1)CCCCCCCCCCCCCC)CC(=O)OC)=O | C26H43NO4
